US06180649B2
A mixture of 1-piperidin-4-yl-1,3-dihydro-benzimidazol-2-one (1.96 g, 9 mmol), 1-butylbromide (1.46 ml, 13.5 mmol) and potassium carbonate (1.86 g, 13.5 mmol) in ethanol (20 ml) was refluxed for 18 hours. After cooling to ambient temperature acetone (5 ml) and diethyl ether (5 ml) was added to the reaction mixture, followed by filtration and evaporation of the filtrate in vacuo. The crude product was subjected to column chromatography using a mixture of chloroform and methanol (7/1) containing 1% concentrated ammonium hydroxide as eluent and 1-butyl-3-(1-butyl-piperidin-4-yl)-1,3-dihydro-benzimidazol-2-one was eluted first followed by 1-(1-butyl-piperidin-4-yl)-1,3-dihydro-benzimidazol-2-one contaminated with the di-butylated product. The last product was recrystallized from ethanol and 1-(1-butyl-piperidin-4-yl)-1,3-dihydro-benzimidazol-2-one was isolated as a white crystalline compound, which was dissolved in a small amount of methylene chloride whereafter oxalic acid was added. The formed 1-(1-butyl-piperidin-4-yl)-1,3-dihydro-benzimidazol-2-one oxalate was collected by filtration, white crystals, m.p. 209-214° C. 1-butyl-3-(1-butyl-piperidin-4-yl)-1,3-dihydro-benzimidazol-2-one as an oil was dissolved in a small amount of methylene chloride and oxalic acid was added. Only a yellow syrup of this product was obtained.

reactant | 1-piperidin-4-yl-1,3-dihydro-benzimidazol-2-one | 9 mmol, 1.96 g | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | 1-butylbromide | 13.5 mmol, 1.46 ml | C(CCC)Br | C4H9Br
reactant | potassium carbonate | 13.5 mmol, 1.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 5 ml | CC(=O)C | C3H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 1-(1-butyl-piperidin-4-yl)-1,3-dihydro-benzimidazol-2-one | C(CCC)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C16H23N3O
